US04933355
5-[2-(3-phenylureido)thiazol-4-ylmethylene]rhodanine
Following a procedure similar to that described in Example 24, the desired compound was prepared from 1 g of 2-(3-phenylureido)thiazole-4-carbaldehyde, 0.6 g of rhodanine, 0.75 g of piperidine and 15 ml of ethanol. The resulting product was a yellow-brown powder having the following physical properties.

reactant | 2-(3-phenylureido)thiazole-4-carbaldehyde | 1 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C=O)=O | C11H9N3O2S
reactant | rhodanine | 0.6 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | piperidine | 0.75 g | N1CCCCC1 | C5H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-[2-(3-phenylureido)thiazol-4-ylmethylene]rhodanine | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C=C1C(NC(S1)=S)=O)=O | C14H10N4O2S3
